US05910506
Synthesis of [5-(3,5-Dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetic Acid (Compound I-80)
A mixture of methanol (1 ml), 0.10 g of methyl [5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetate (33)and 1N-sodium hydroxide (0.32 ml)was stirred at room temperature for 1.5 hours. To the reaction mixture was added 0.32 ml of 1N-hydrochloric acid to yield crystals, which were filtered, washed with water and then with chilled methanol to obtain 87 mg of the target compound (Compound I-80)(yield 90%). mp 118° C. (degradation).

reactant | methyl [5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetate | 0.10 g | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1C)CC(=O)OC)C(C)C | C16H18Cl2N2O2S
reactant | sodium hydroxide | 0.32 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | [5-(3,5-Dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetic Acid | 87 mg, yield 90% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1C)CC(=O)O)C(C)C | C15H16Cl2N2O2S
